US04914112
A mixture of (+)-1-chloro-3-(2-fluoro-4-biphenylyl)-2-butanone (27.7 mg, 0.1 mmol; [α]D25°C. +180° (c=0.744, CHCl3), N-methylthiourea (9 mg, 0.1 mmol) and sodium bicarbonate (9.2 mg, 0.11 mmol) in methanol (1 ml) was stirred at room temperature for 28 hr and the mixture was diluted with NaCl aq., then extracted with ethyl acetate. The extracts were dried with magnesium sulfate and evaporated under reduced pressure to a residue, which was chromatographed to afford (+)-2-methylamino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole (21.9 mg, 70% yield): [α]D25°C. +10.7° (c=0.15, CHCl3); 70% ee.

reactant | (+)-1-chloro-3-(2-fluoro-4-biphenylyl)-2-butanone | ClCC(C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F)=O | C16H14ClFO
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | N-methylthiourea | 0.1 mmol, 9 mg | CNC(=S)N | C2H6N2S
reactant | sodium bicarbonate | 0.11 mmol, 9.2 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | NaCl | [Na+].[Cl-]
product | (+)-2-methylamino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole | 21.9 mg, 70% yield | CNC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C18H17FN2S
